US05387690
A. Preparation of 5-[[3-ethoxy-4-hydroxyphenyl]methylene]-3-dimethylamino-2-thioxo-4-thiazolidinone
3-Ethoxy-4-hydroxybenzaldehyde (45.7 g), N-dimethylaminorhodanine (53.35 g) and fused sodium acetate (92.4 g) were reacted in the manner described in Example 1 to provide 52.92 g of the subtitled intermediate. m.p. 194°-198° C.

reactant | 3-Ethoxy-4-hydroxybenzaldehyde | 45.7 g | C(C)OC=1C=C(C=O)C=CC1O | C9H10O3
reactant | N-dimethylaminorhodanine | 53.35 g | CN(N1C(SCC1=O)=S)C | C5H8N2OS2
product | 5-[[3-ethoxy-4-hydroxyphenyl]methylene]-3-dimethylamino-2-thioxo-4-thiazolidinone | 52.92 g | C(C)OC=1C=C(C=CC1O)C=C1C(N(C(S1)=S)N(C)C)=O | C14H16N2O3S2
